US07199265B2
A solution of 3,5-dichloro-4-(4-isobutyramidophenoxy)phenylacetic acid (70 mg), 3-ethyl-1-[3-(dimethylamino)propyl]carbodiimide hydrochloride (49 mg), 1-hydroxybenzo-triazole hydrate, (45 mg) in dimethyl formamide (2 mL) was stirred at room temperature for 0.5 hours followed by addition of a solution of methyl glycine hydrochloride (46 mg) and triethylamine (56 mg) in dimethylformamide (1 mL). After stirring for one day, the reaction mixture was concentrated. The residue was purified by HPLC as described for Examples 33–90, to give methyl N-[3,5-dichloro-4-(4-isobutyramidophenoxy)phenylacetyl]glycine. The ester was hydrolyzed using the method described in Example 1(i) and purified as above, to give 25 mg (31%) of N-[3,5-dichloro-4-(4-isobutyramidophenoxy)phenylacetyl]glycine, m/z 439.

reactant | 3,5-dichloro-4-(4-isobutyramidophenoxy)phenylacetic acid | 70 mg | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)NC(C(C)C)=O)Cl)CC(=O)O | C18H17Cl2NO4
reactant | 3-ethyl-1-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 49 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzo-triazole hydrate | 45 mg | O.ON1N=NC2=C1C=CC=C2
reactant | methyl glycine hydrochloride | 46 mg | Cl.CNCC(=O)O
solvent | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 56 mg | C(C)N(CC)CC | C6H15N
product | methyl N-[3,5-dichloro-4-(4-isobutyramidophenoxy)phenylacetyl]glycine | CN(CC(=O)O)C(CC1=CC(=C(C(=C1)Cl)OC1=CC=C(C=C1)NC(C(C)C)=O)Cl)=O | C21H22Cl2N2O5
